US06337344B1
A mixture of 175 mg of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole, 5 ml of dimethylformamide, 0.2 g of 4-cyano-benzoic acid, 0.35 g of diphenylphosphoryl azide and 0.4 ml of diisopropylethylamine was stirred at room temperature over night. The solvent was removed under reduced pressure and the residue was partitioned between methylene chloride and 10% aqueous sodium carbonate solution. The organic phase was washed with 1 N hydrochloric acid, dried over magnesium sulfate and evaporated. Crystallization of the residue from methylene chloride/ether yielded 245 mg of 2-(4-cyano-benzoyl)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole with m.p. 228-232° C.

reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 175 mg | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | 4-cyano-benzoic acid | 0.2 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | diphenylphosphoryl azide | 0.35 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diisopropylethylamine | 0.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-cyano-benzoyl)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 245 mg | C(#N)C1=CC=C(C(=O)N2CC=3NC4=CC=CC=C4C3CC2)C=C1 | C19H15N3O
